US04474754
5(b). Preparation of Z-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH
1.03 Grams of Z-Ser-Leu-NHNH2 was dissolved in 15 ml of dimethylformamide, then 1.41 ml of 6N-hydrochloric acid/dioxane was further added thereto, and the mixture was cooled to -15° C., then 0.38 ml of isoamyl nitrite was added under a stirring condition. After the reaction mixture shows a negative reaction in hydrazide test, then a cold solution of 0.40 ml of dimethylformamide with 1.18 ml of triethylamine was added drop by drop in small amounts to neutralize the reaction mixture. This reaction mixture containing the azide was added to 10 ml of a cold dimethylformamide solution containing H-Arg-Ser-Lys(Tos)-Glu-OH obtained in the above-mentioned step 5(a) and 0.66 ml of triethylamine, then whole mixture was stirred at -10° to -15° C. for 2 hours, and at 4° C. for 20 hours. Dimethylformamide was removed by distillation under a reduced pressure and the residue thus obtained was extracted with n-butanol saturated with water and the butanol layer was wahsed 5 times with water being saturated with n-butanol and the solvent was removed by distillation. The residue was solidified by adding ethyl ether, and reprecipitated from methanol-ethyl acetate to obtain 1.92 g of the desired product.

reactant | Z-Ser-Leu-NHNH2 | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C17H26N4O5
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | isoamyl nitrite | 0.38 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | azide | [N-]=[N+]=[N-]
reactant | H-Arg-Ser-Lys(Tos)-Glu-OH | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C27H44N8O10S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.40 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.66 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.18 ml | C(C)N(CC)CC | C6H15N
product | Z-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | 1.92 g | N([C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C44H66N10O15S
